US07141561B2
N,N,N′-Trimethyl-N′-(4-nitrophenyl)ethane-1,2-diamine
A mixture of N,N,N′-trimethylethane-1,2-diamine (2.17 g), potassium carbonate (3.0 g), 4-nitrofluorobenzene and dimethylformamide (30 ml) was stirred for 72 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and saturated brine, dried and concentrated. The product with the molecular weight of 223.28 (C11H17N3O2); MS (ESI): 224 ([M+H]+), was obtained in this way.

reactant | N,N,N′-trimethylethane-1,2-diamine | 2.17 g | CN(CCNC)C | C5H14N2
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrofluorobenzene | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N,N,N′-Trimethyl-N′-(4-nitrophenyl)ethane-1,2-diamine | CN(CCN(C1=CC=C(C=C1)[N+](=O)[O-])C)C | C11H17N3O2
